### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/Inverse.lean [hunk 1]
```diff
@@ -456,12 +455,31 @@ def toLocalHomeomorph (hf : ApproximatesLinearOn f (f' : E →L[𝕜] F) s c)
   continuous_invFun := hf.inverse_continuousOn hc
 #align approximates_linear_on.to_local_homeomorph ApproximatesLinearOn.toLocalHomeomorph
 
+@[simp]
```
Comment (ericrbg) [inline Mathlib/Analysis/Calculus/Inverse.lean:458]: just to make sure all is good - they were moved up because of `toHomeomorph`, and otherwise unchanged, right?

File: Mathlib/Analysis/InnerProductSpace/Orientation.lean [hunk 2]
```diff
@@ -175,9 +175,6 @@ section VolumeForm
 
 variable [_i : Fact (finrank ℝ E = n)] (o : Orientation ℝ E (Fin n))
 
--- Porting note: added instance
-instance : IsEmpty (Fin Nat.zero) := by simp only [Nat.zero_eq]; infer_instance
```
Comment (ericrbg) [inline Mathlib/Analysis/InnerProductSpace/Orientation.lean:179]: for other reviewers - this was moved to `Logic/IsEmpty.lean`

**Review by ericrbg — APPROVED** [review]
lgtm, i'd encourage one other person to scroll through quickly and make sure all looks good

File: Mathlib/Analysis/Calculus/Inverse.lean [hunk 3]
```diff
@@ -566,10 +564,10 @@ theorem approximates_deriv_on_open_nhds (hf : HasStrictFDerivAt f (f' : E →L[
       ApproximatesLinearOn f (f' : E →L[𝕜] F) s (‖(f'.symm : F →L[𝕜] E)‖₊⁻¹ / 2) := by
   simp only [← and_assoc]
   refine' ((nhds_basis_opens a).exists_iff _).1 _
-  exact fun s t => ApproximatesLinearOn.mono_set
-  exact
-    hf.approximates_deriv_on_nhds <|
-      f'.subsingleton_or_nnnorm_symm_pos.imp id fun hf' => half_pos <| inv_pos.2 hf'
+  · exact fun s t => ApproximatesLinearOn.mono_set
```
[the remark this answers is not in the document]
Comment (Ruben-VandeVelde) [reply Mathlib/Analysis/Calculus/Inverse.lean]: That works. (I'm not touching `=>` vs `\mapsto`.)

**Review by jcommelin — APPROVED** [review]
Thanks :tada: 

If CI passes, please remove the label `awaiting-CI` and merge this yourself, by adding a comment `bors r+`.

bors d+
